US07601726B2
A solution of 1.02 kg of N′-[[2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-((R)-2-methanesulfonyl-1-methyl-ethylamino)-methylene]-hydrazinecarboxylic acid tert-butyl ester in toluene (6-8 l) and conc HCl. (500 ml) was stirred at room temperature overnight. The reaction mixture was diluted with iso-propyl acetate (3.5 L) and a saturated aqueous sodium bicarbonate solution was added. The resulting solid precipitate was collected by filtration, washed with aqueous sodium bicarbonate, water, then with methyl t-butyl ether, and dried under vacuum. The material was recrystallized from isobutanol to give 455 g of [6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-((R)-2-methanesulfonyl-1-methyl-ethyl)-amine. Mp=177.7-178.8° C., MS(M+H)=384.

reactant | N′-[[2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-((R)-2-methanesulfonyl-1-methyl-ethylamino)-methylene]-hydrazinecarboxylic acid tert-butyl ester | 1.02 kg | C(C)(C)(C)OC(=O)NN=C(N[C@@H](CS(=O)(=O)C)C)C=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F | C26H27F4N5O6S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 6-8 l | C1(=CC=CC=C1)C | C7H8
solvent | HCl | Cl | ClH
solvent | iso-propyl acetate | 3.5 L | C(C)(=O)OC(C)C | C5H10O2
product | [6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-((R)-2-methanesulfonyl-1-methyl-ethyl)-amine | 455 g | FC1=C(OC2=NC=C3C(=N2)NN=C3N[C@@H](CS(=O)(=O)C)C)C=CC(=C1)F | C15H15F2N5O3S
